US07459472B2
Methyl Iodide (3.83 g, 27.04 mmol) was added to a solution of 5-Bromo-3-chloro-2-hydroxy-benzoic acid (1.7 g, 6.76 mmol) and Cs2CO3 (4.83 g, 14.86 mmol) in DMF (10 mL) and heated at 50° C. for 12 h. The reaction mixture was diluted with EtOAc (30 mL) and filtered over celite pad. Filtrate was washed with water, brine and dried over Na2SO4. Solvent was removed and the residue was purified by silicagel column chromagography to get pure 5-Bromo-3-chloro-2-methoxy-benzoic acid methyl ester (1.56 g)

reactant | Methyl Iodide | 27.04 mmol, 3.83 g | CI | CH3I
reactant | 5-Bromo-3-chloro-2-hydroxy-benzoic acid | 6.76 mmol, 1.7 g | BrC=1C=C(C(=C(C(=O)O)C1)O)Cl | C7H4BrClO3
reactant | Cs2CO3 | 14.86 mmol, 4.83 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
product | 5-Bromo-3-chloro-2-methoxy-benzoic acid methyl ester | 1.56 g | COC(C1=C(C(=CC(=C1)Br)Cl)OC)=O | C9H8BrClO3
